US07687664B2
t-Butyl N-[5-(3-formylphenyl)-2-methoxybenzyl]carbamate
747 mg of t-Butyl N-{5-[3-(hydroxymethyl)-phenyl]-2-methoxybenzyl}carbamate, 510 mg of N-methylmorpholin-N-oxide, 76 mg of tetrapropyl ammonium perruthenate and 1 g of 4A molecular sieve powder were dissolved in 1 g of dichloromethane, and the mixture was stirred at room temperature for 2hours. The reaction mixture was filtered and the filtrate was evaporated. The residue was purified by silica gel column, to give 566 mg of the title compound in the 3:1→1:1 hexane-ethyl acetate fraction.

reactant | t-Butyl N-{5-[3-(hydroxymethyl)-phenyl]-2-methoxybenzyl}carbamate | 747 mg | OCC=1C=C(C=CC1)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C20H25NO4
reactant | N-methylmorpholin-N-oxide | 510 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 1 g | ClCCl | CH2Cl2
catalyst | tetrapropyl ammonium perruthenate | 76 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | t-Butyl N-[5-(3-formylphenyl)-2-methoxybenzyl]carbamate | 566 mg | C(=O)C=1C=C(C=CC1)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)OC | C20H23NO4
